US08580794B2
2-chloro-5,5-bis(fluoromethyl)cyclohex-1-enecarbaldehyde
To a 100 mL pear flask was added N,N-dimethylformamide (498 μl) and dichloromethane (8.9 mL) to give a colorless solution. The solution was cooled to 0° C. and POCl3 (550 μl) was added dropwise and then the mixture was warmed to room temperature for 30 minutes. In the meantime, to a 100 mL pear shaped flask was added EXAMPLE 353C (870 mg, 5.36 mmol) in dichloromethane (8941 μl) to give a colorless solution. The Vilsmeier reagent was then taken up in a syringe and added dropwise to the 4,4-bis(fluoromethyl)cyclohexanone (870 mg) solution at room temperature. The resulting solution was stirred overnight. The reaction was poured into saturated aqueous NaHCO3 and ice, warmed to room temperature and extracted with dichloromethane (3×30 mL). The organics were combined, dried over MgSO4, filtered and concentrated by rotary evaporation. The residue was purified by regular phase flash column chromatography (Analogix (0-60% hexanes/ethyl acetate).

reactant | POCl3 | 550 μl | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | 4,4-bis(fluoromethyl)cyclohexanone | 870 mg | FCC1(CCC(CC1)=O)CF | C8H12F2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 8941 μl | ClCCl | CH2Cl2
solvent | dichloromethane | 8.9 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 498 μl | CN(C=O)C | C3H7NO
product | 2-chloro-5,5-bis(fluoromethyl)cyclohex-1-enecarbaldehyde | ClC1=C(CC(CC1)(CF)CF)C=O | C9H11ClF2O
